### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): setup of universal vertices

### PR DESCRIPTION
**Pull request by pimotte**
Added the defintion of `universalVerts` and `deleteUniversalVerts` along with some initial results.
This is in preparation for a proof of Tutte's theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

[Zulip thread on Tutte's](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Tutte's.20theorem)

This PR is the result of cleaning up [this file](https://github.com/pimotte/TutteLean/blob/main/TutteLean/PartNew.lean) which gives some context to how this will be used further.

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean [hunk 1]
```diff
@@ -0,0 +1,64 @@
...
+
+lemma isClique_universalVerts (G : SimpleGraph V) : G.IsClique G.universalVerts :=
+  fun x _ _ hy hxy ↦ hy x hxy.symm
+
+/--
+  The subgraph of `G` with the universal vertices removed.
+-/
+@[simps!]
+def deleteUniversalVerts (G : SimpleGraph V) : Subgraph G :=
+  ((⊤ : Subgraph G).deleteVerts G.universalVerts)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean:39]:
```suggestion
  (⊤ : Subgraph G).deleteVerts G.universalVerts
```

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean [hunk 2]
```diff
@@ -0,0 +1,64 @@
...
+
+lemma Subgraph.IsMatching.exists_of_universalVerts [Fintype V] {s : Set V}
+    (h : Disjoint G.universalVerts s) (hc : s.ncard ≤ G.universalVerts.ncard) :
+    ∃ t ⊆ G.universalVerts, ∃ (M : Subgraph G), M.IsMatching ∧ M.verts = s ∪ t := by
+  obtain ⟨t, ht⟩ := Set.exists_subset_card_eq hc
+  use t
+  refine ⟨ht.1, ?_⟩
+  have f : s ≃ t := by
+    simp only [← Set.Nat.card_coe_set_eq, Nat.card.eq_1] at ht
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean:48]:
```suggestion
    simp only [← Set.Nat.card_coe_set_eq, Nat.card] at ht
```
untested, but if it doesn't work then `.eq_1` lemmas are usually not meant to be used.

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean [hunk 3]
```diff
@@ -0,0 +1,64 @@
...
+    have : Nonempty (s ≃ t) := by
+      rw [← Cardinal.eq]
+      exact Cardinal.toNat_injOn (Set.mem_Iio.mpr (Set.Finite.lt_aleph0 (s.toFinite)))
+        (Set.mem_Iio.mpr (Set.Finite.lt_aleph0 (Set.toFinite t))) ht.2.symm
+    exact (Classical.inhabited_of_nonempty this).default
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean:53]: Classical.arbitrary might work here?

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean [hunk 4]
```diff
@@ -0,0 +1,64 @@
...
+  have hd := (Set.disjoint_of_subset_left ht.1 h).symm
+  obtain ⟨M1, hM1⟩ := Subgraph.IsMatching.exists_of_disjoint_sets_of_equiv hd f
+    (by
+      intro v
+      have : ((f v) : V) ∈ G.universalVerts := ht.1 (f v).coe_prop
+      simp only [universalVerts, Set.mem_setOf_eq] at this
+      apply this
+      exact (Disjoint.ne_of_mem hd v.coe_prop (f v).coe_prop).symm)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean:61]: I'd suggest making a have block for this part, and using that in the obtain

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean (hunk 3 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean]: Fixed:)

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean (hunk 4 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean]: Done:)

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean [hunk 5]
```diff
@@ -0,0 +1,64 @@
...
+* `G.deleteUniversalVerts` is the subgraph of `G` with the universal vertices removed.
+-/
+
+namespace SimpleGraph
+variable {V : Type*} {G : SimpleGraph V}
+
+/--
+  The set of vertices that are connected to all other vertices.
+-/
+def universalVerts (G : SimpleGraph V) : Set V := {v : V | ∀ w, v ≠ w → G.Adj w v}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean:29]:
```suggestion
def universalVerts (G : SimpleGraph V) : Set V := {v : V | ∀ ⦃w⦄, v ≠ w → G.Adj w v}
```
should be slightly nicer to use

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean [hunk 6]
```diff
@@ -0,0 +1,64 @@
...
+
+lemma isClique_universalVerts (G : SimpleGraph V) : G.IsClique G.universalVerts :=
+  fun x _ _ hy hxy ↦ hy x hxy.symm
+
+/--
+  The subgraph of `G` with the universal vertices removed.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean:35]:
```suggestion
The subgraph of `G` with the universal vertices removed.
```

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean [hunk 7]
```diff
@@ -0,0 +1,64 @@
...
+    exact Classical.arbitrary _
+  have hd := (Set.disjoint_of_subset_left ht.1 h).symm
+  have hadj : ∀ (v : s), G.Adj v (f v) := by
+    intro v
+    have : ((f v) : V) ∈ G.universalVerts := ht.1 (f v).coe_prop
+    simp only [universalVerts, Set.mem_setOf_eq] at this
+    apply this
+    exact (hd.ne_of_mem v.coe_prop (f v).coe_prop).symm
+  obtain ⟨M1, hM1⟩ := Subgraph.IsMatching.exists_of_disjoint_sets_of_equiv hd f hadj
+  aesop
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean:62]:
```suggestion
lemma Subgraph.IsMatching.exists_of_universalVerts [Fintype V] {s : Set V}
    (h : Disjoint G.universalVerts s) (hc : s.ncard ≤ G.universalVerts.ncard) :
    ∃ t ⊆ G.universalVerts, ∃ (M : Subgraph G), M.verts = s ∪ t ∧ M.IsMatching := by
  obtain ⟨t, ht⟩ := Set.exists_subset_card_eq hc
  refine ⟨t, ht.1, ?_⟩
  obtain ⟨f⟩ : Nonempty (s ≃ t) := by
    rw [← Cardinal.eq, ← t.toFinite.cast_ncard, ← s.toFinite.cast_ncard, ht.2]
  letI hd := Set.disjoint_of_subset_left ht.1 h
  have hadj (v : s) : G.Adj v (f v) := ht.1 (f v).2 (hd.ne_of_mem (f v).2 v.2)
  exact Subgraph.IsMatching.exists_of_disjoint_sets_of_equiv hd.symm f hadj
```
I golfed your proof a bit, what do you think?

It does need two extra lemmas, however:
```
lemma _root_.Nat.cast_card {α : Type*} [Finite α] : (Nat.card α : Cardinal) = Cardinal.mk α := by
  rw [Nat.card, Cardinal.cast_toNat_of_lt_aleph0]
  exact Cardinal.lt_aleph0_of_finite _

lemma _root_.Set.Finite.cast_ncard {α : Type*} {s : Set α} (hs : s.Finite) :
    (s.ncard : Cardinal) = Cardinal.mk s :=
  @_root_.Nat.cast_card _ hs
```
which should go into other files (the ones defining Nat.card and Set.ncard, respectively). @YaelDillies might improve the names too

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean [hunk 8]
```diff
@@ -0,0 +1,64 @@
...
+  have f : s ≃ t := by
+    simp only [← Set.Nat.card_coe_set_eq, Nat.card] at ht
+    have : Nonempty (s ≃ t) := by
+      rw [← Cardinal.eq]
+      exact Cardinal.toNat_injOn (Set.mem_Iio.mpr s.toFinite.lt_aleph0)
+        (Set.mem_Iio.mpr t.toFinite.lt_aleph0) ht.2.symm
+    exact Classical.arbitrary _
+  have hd := (Set.disjoint_of_subset_left ht.1 h).symm
+  have hadj : ∀ (v : s), G.Adj v (f v) := by
+    intro v
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean:56]:
```suggestion
  have hadj (v : s) : G.Adj v (f v) := by
```

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean:62]: I would call the second one `Set.cast_ncard`

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean (hunk 8 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean:56]: (this one should be already incorporated in my suggestion above!)

File: Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean (hunk 7 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean]: Looks very clean, adopted all of it:)

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/UniversalVerts.lean]: Oh, I should have explicitly mentioned that I changed the order of the `and` in the statement for consistency with `Subgraph.IsMatching.exists_of_disjoint_sets_of_equiv`; this might make a small conflict with the place you use the lemma but it makes mathlib more internally consistent and should be easy to fix!

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
